datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21](=[C:22]([H:24])[H:25])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[C:21](=[C:22]([H:24])[H:25])[H:23])[H:11])([H:9])[H:10],-0.54392
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23],46.8608
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])([H:5])[C:13]([C:12]([H:20])([H:21])[H:22])([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23],34.3088
[C:0]([C:1]([C:2]1=[C:3]([H:17])[C:4]([H:18])([H:19])[C:5]([H:20])[c:6]2[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]21)([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([c:2]1[c:3]([H:17])[c:4]([H:19])[c:5]([H:20])[c:6]2[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]12)([H:15])[H:16])([H:12])([H:13])[H:14].[H:18],119.092
[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6].[O:7][O:8]>>[C:0]([O:1][C:2](=[O:3])[O:7][O:8])([H:4])([H:5])[H:6],0.0
[C:1](#[C:2][C:3](=[C:4]([c:5]1[c:7][c:8]([H:9])[c:10]([H:11])[c:12]([H:13])[c:14]1[H:16])[H:17])[H:18])[H:19]>>[C:1](=[C:2]1[C:3]([H:18])=[C:4]([H:17])[c:5]2[c:7]([H:16])[c:8]([H:9])[c:10]([H:11])[c:12]([H:13])[c:14]21)[H:19],244.077824
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]#[C:8][H:17])[H:13])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])[C:5]1([C:6]([H:14])([H:15])[H:16])[C:7]#[C:8][H:17])[H:9],162.423
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[O:10][H:11]>>[C:0]([C:1]([N:2]([H:8])[H:9])[H:7])([H:3])([H:4])[H:5].[H:6][O:10][H:11],-12.71936
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14],11.7152
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[H:8][H:9]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:9])([H:3])[H:4].[H:8],16.3176
[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:5])([H:6])[H:7].[C:11]([H:12])([H:13])[H:14]>>[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:6])[H:7].[H:5][C:11]([H:12])([H:13])[H:14],23.7442
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])([C:13]([H:21])([H:22])[H:23])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:17])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13]([H:21])([H:22])[H:23])[H:16])([H:14])[H:15],22.1752
[C:3](=[C:4]([H:6])[H:7])[H:5].[O:0]([H:1])[H:2]>>[H:1].[O:0]([H:2])[C:3](=[C:4]([H:6])[H:7])[H:5],158.494
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([C:24]([C:25]([H:35])([H:36])[H:37])[c:26]1[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]1[H:42])([H:32])([H:33])[H:34]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[C:24]([C:23]([H:32])([H:33])[H:34])([C:25]([H:35])([H:36])[H:37])[c:26]1[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]1[H:42])[H:14])[H:13])([H:11])[H:12],39.1622
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:8]([C:7]([H:10])([H:11])[H:12])([C:9]([H:14])([H:15])[H:16])[H:13],22.1752
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[O:30][O:31][H:32]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[H:27][O:30][O:31][H:32],59.99856
[C:0](=[N:1][H:4])([H:2])[H:3].[O:5]>>[C:0](=[N:1])([H:2])[H:3].[H:4][O:5],85.9519
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([C:14]([S:15][H:20])[H:19])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:14]([C:13]([H:16])([H:17])[H:18])([S:15][H:20])[H:19],-6.276
